US07157490B2
6-Iodo[1,2,4]triazolo[4.3-α]pyridin-3(2H)-one
To a solution of 5-iodo-2-hydrazinopyridine (470 mg, 2 mmol) in dichloromethane (30 mL) was added a solution of N,N-carbonyldiimidazole (389 mg, 2.4 mmol) in 20 mL of dichloromethane. After stirring at room temperature for 2 h, the mixture was washed sequentially with water, 0.5N aqueous hydrochloric acid and saturated aqueous sodium bicarbonate solution. The organic phase was dried (magnesium sulfate) and concentrated under reduced pressure to afford the product. The resultant yellow crystals that precipitated from the aqueous phase upon standing overnight were collected and dried in vacuo to afford additional product. LC/MS 261.8 (M+1).

reactant | 5-iodo-2-hydrazinopyridine | 2 mmol, 470 mg | IC=1C=CC(=NC1)NN | C5H6IN3
reactant | N,N-carbonyldiimidazole | 2.4 mmol, 389 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 6-Iodo[1,2,4]triazolo[4.3-α]pyridin-3(2H)-one | IC=1C=CC=2N(C1)C(NN2)=O | C6H4IN3O
